US03953616
In a 2000 ml. Erlenmeyer flask, there were placed 150 g. of monostearyl succinic acid (acid value, 156.7) and 1200 ml. of acetone. This mixture was first warmed and stirred to effect solution and then cooled to 40°C., at which point 17.3 g. of sodium hydroxide in 100 ml. of water were slowly added. The addition step was accomplished with vigorous agitation of the mixture, while the temperature of the acetone solution was always maintained at 40°-43°C. throughout said step. The resulting reaction mixture was then stirred for a further 15 minutes, cooled down to 10°-15°C. and filtered with suction. The filter cake so obtained was washed twice with separate 100 ml. portions of cold acetone and sucked dry on the filter funnel. After drying the product in a vacuum oven at 50°C., it was found that a yield of 157.5 g. (98.5%) of sodium stearyl succinate was obtained. This particular salt, which was obtained in the form of a white powder, gave a 0.1% (W/V) aqueous dispersion at 25°C. and a 1% dispersion at 50°C.

reactant | monostearyl succinic acid | C(CCCCCCCCCCCCCCCCC)C(C(=O)O)CC(=O)O | C22H42O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | sodium stearyl succinate | 98.5% | C(CCC(=O)[O-])(=O)OCCCCCCCCCCCCCCCCCC.[Na+] | InChI=1S/C22H42O4.Na/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-20-26-22(25)19-18-21(23)24;/h2-20H2,1H3,(H,23,24);/q;+1/p-1
